US06900215B2
3-Bromo-7-trifluoromethylimidazo[1,2-α]pyrimidine was coupled with 3′-fluoro-5′-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)biphenyl-2-carbonitrile as described in Example 1 to give 3′-fluoro-5′-(7-trifluoromethylimidazo[1,2-α]pyrimidin-3-yl)biphenyl-2-carbonitrile as a yellow solid: δH (360 MHz, DMSO) 7.55 (1H, d, J 7), 7.62-7.69 (2H, m), 7.80-7.87 (4H, m), 8.03 (1H, d, J 8), 8.40 (1H, s), 9.47 (1H, d, J 7); m/z (ES+) 383 (M++H).

reactant | 3-Bromo-7-trifluoromethylimidazo[1,2-α]pyrimidine | BrC1=CN=C2N1C=CC(=N2)C(F)(F)F | C7H3BrF3N3
reactant | 3′-fluoro-5′-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)biphenyl-2-carbonitrile | FC=1C=C(C=C(C1)B1OC(C(O1)(C)C)(C)C)C=1C(=CC=CC1)C#N | C19H19BFNO2
product | 3′-fluoro-5′-(7-trifluoromethylimidazo[1,2-α]pyrimidin-3-yl)biphenyl-2-carbonitrile | FC=1C=C(C=C(C1)C1=CN=C2N1C=CC(=N2)C(F)(F)F)C=2C(=CC=CC2)C#N | C20H10F4N4
